US07425634B2
(12a) 4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide
To a dimethyl sulfoxide (30 ml) solution of the (2,2-dimethyl-1,3-dioxan-5-yl)methanol (3.27 g, 22.4 mmol) separately obtained in the same manner as in the step (11a) in example 11, sodium hydride, in oil (837 mg, 20.9 mmol as the content was regarded as 60%) was added at room temperature. The mixture was stirred at room temperature for 15 minutes in a nitrogen atmosphere. To the mixture, 4-chloro-2,3-dimethylpyridine 1-oxide (3.03 g, 19.2 mmol) was added, and the mixture was stirred at 60° C. for 3 hours and 20 minutes. After cooled to room temperature, the reaction mixture was concentrated. The residue was purified by silica gel column chromatography (NH silica gel: 250 g, elution solvent: ethyl acetate, ethyl acetate/methanol=10/1) to obtain the title compound (3.84 g, yield: 74.8%) as a pale brown solid.

reactant | (2,2-dimethyl-1,3-dioxan-5-yl)methanol | 22.4 mmol, 3.27 g | CC1(OCC(CO1)CO)C | C7H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 19.2 mmol, 3.03 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide | 3.84 g, yield: 74.8% | CC1(OCC(CO1)COC1=C(C(=[N+](C=C1)[O-])C)C)C | C14H21NO4
